US06331553B1
Synthesis of 2-(3-aminomethylphenylamino)-3,5-dinitropyridine
A mixture of the thus obtained resin (100 mg, 0.071 mol), potassium carbonate (100 mg), 2-chloro-3,5-dinitropyridine (72 mg), palladium (II) acetate (16 mg), diphenylphosphinoferrocene (79 mg) and acetonitrile (9 ml) was stirred under a nitrogen atmosphere at 80° C. and then filtered. The resulting resin was washed sequentially with dimethylformamide, water, methanol and methylene chloride, dried under reduced pressure and, after adding trifluoroacetic acid, the mixture was stirred at room temperature for 1 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. To the resulting residue, water and ethyl acetate were added. The aqueous layer was washed with ethyl acetate and concentrated under reduced pressure. The resulting residue was purified with Sep-PaK® Plus C18 Cartridges (Waters) to give 1.7 mg of the titled compound (8%).

reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3,5-dinitropyridine | 72 mg | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | acetonitrile | 9 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | diphenylphosphinoferrocene | 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
product | 2-(3-aminomethylphenylamino)-3,5-dinitropyridine | 1.7 mg, 8% | NCC=1C=C(C=CC1)NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C12H11N5O4
